US07125901B2
tert-Butyl 4-(2-{2-(acetylamino)-5-[(methylamino)carbonyl]-1,3-thiazol-4-yl}ethyl)phenylcarbamate (95 mg) and trifluoroacetic acid (2 ml) were combined at 0° C. The reaction mixture was stirred at room temperature for an hour, and concentrated in vacuo. The residue was dissolved in chloroform. The organic solution was washed with 1N sodium hydroxide solution, water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative silica gel column chromatography with chloroform/methanol (10:1) as an eluent to give 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-N-methyl-1,3-thiazole-5-carboxamide (49 mg) as an off-white amorphous substance.

reactant | tert-Butyl 4-(2-{2-(acetylamino)-5-[(methylamino)carbonyl]-1,3-thiazol-4-yl}ethyl)phenylcarbamate | 95 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)C(=O)NC | C20H26N4O4S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-N-methyl-1,3-thiazole-5-carboxamide | 49 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)N)C(=O)NC | C15H18N4O2S
